US05856529
(-)-(trans)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl] methyl]propanamide
This compound was prepared similar to the above procedure using propionyl chloride and (-)-(trans)-2-(2,3-dihydrobenzofuran-4-yl)-cyclopropanemethanamine to give an oil that solidified upon standing to an off-white solid (61%, mp: 71°-72° C.). IR (NaCl Film): 3298, 1645, 1548, 1459, 1235 cm-1. [α]D25 : -17.3°; Anal. Calc'd for C15H19NO2 : C, 73.44; H, 7.87; N, 5.71; Found: C, 73.28; H, 7.68; N, 5.58.

reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
reactant | (-)-(trans)-2-(2,3-dihydrobenzofuran-4-yl)-cyclopropanemethanamine | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)CN | C12H15NO
reactant | NaCl | [Na+].[Cl-]
product | (-)-(trans)-N-[[2-(2,3-Dihydrobenzofuran-4-yl)cycloprop-1-yl] methyl]propanamide | O1CCC2=C1C=CC=C2[C@H]2[C@@H](C2)CNC(CC)=O | C15H19NO2
